US04622326
3-(3-Chlorophenyl)-6-ethyl-6H-isoxazolo[5,4-d]pyrazolo[3,4-b]pyridine
5-(3-Chlorobenzoyl)-1-ethyl-4-hydroxy-1H-pyrazolo[3,4-b]pyridine (4.25 g) was refluxed overnight in 100 ml of pyridine containing 4.5 g of hydroxylamine hydrochloride. The reaction mixture was then evaporated and the residue triturated with 5% hydrochloric acid. The resulting product was then filtered off and washed with methanol. Recrystallization from ethyl acetate gave analytically pure product (1.91 g), mp 178°-179° C.

reactant | 5-(3-Chlorobenzoyl)-1-ethyl-4-hydroxy-1H-pyrazolo[3,4-b]pyridine | 4.25 g | ClC=1C=C(C(=O)C=2C(=C3C(=NC2)N(N=C3)CC)O)C=CC1 | C15H12ClN3O2
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | pyridine | 100 ml, 4.5 g | N1=CC=CC=C1 | C5H5N
product | 3-(3-Chlorophenyl)-6-ethyl-6H-isoxazolo[5,4-d]pyrazolo[3,4-b]pyridine | 1.91 g | ClC=1C=C(C=CC1)C1=NOC2=C3C(=NC=C21)N(N=C3)CC | C15H11ClN4O
